US05629340
51 g of isovanillic acid was dissolved in 350 ml of N,N-dimethylformamide, further 80 ml of, benzyl chloride and 90 g of potassium carbonate were added thereto, and was the resultant mixture was stirred for 24 hours at 60° C. Thereafter, 30 ml of benzylchloride was added, and the resultant mixture was stirred for additional 15 hours at the same temperature. After cooling, 200 ml of triethylamine was added to the resultant solution and stirred for 30 minutes. The reaction mixture was poured into 150 ml of water and extracted with 300 ml of ethyl acetate three times. An organic layer was washed with 100 ml of water three times and 100 ml of 2N hydrochloric acid three times and 100 ml of water three times in this order. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was recrystallized from dichloromethane-ether, affording 98.3 g of 3-benzyloxy4-methoxybenzyl benzoate (93.0% yield). Physicochemical properties of the compound are as follows:

reactant | isovanillic acid | 51 g | C(C1=CC(O)=C(OC)C=C1)(=O)O | C8H8O4
reactant | benzyl chloride | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | potassium carbonate | 90 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzylchloride | 30 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | triethylamine | 200 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 350 ml | CN(C=O)C | C3H7NO
solvent | water | 150 ml | O | H2O
product | 3-benzyloxy4-methoxybenzyl benzoate | 98.3 g, 93.0% yield | C(C1=CC=CC=C1)(=O)OCC1=CC(=C(C=C1)OC)OCC1=CC=CC=C1 | C22H20O4
